US04371537
To 4.08 g of 3,4-dichlorophenol dissolved in a 25 ml THF/25 ml DMSO mixture was added 2.9 g of t-BuOK and then 8.99 g of 2,5-bis(phenylsulfonyl)pyridine, and the resulting mixture heated at 58° C. for 11/2 hrs. The reaction mixture was cooled to room temperature, then added to 3 to 4 volumes of water and stirred. The brown precipitate which formed was removed by filtration. Recrystallization from CH2Cl2 /ethanol gave the purified product, 2-(3,4-dichlorophenoxy)-5-(phenylsulfonyl)pyridine, (68% yield), as white shiny needles, m.p. 113°-114° C.

reactant | 3,4-dichlorophenol | 4.08 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | t-BuOK | 2.9 g | CC(C)(C)[O-].[K+]
reactant | 2,5-bis(phenylsulfonyl)pyridine | 8.99 g | C1(=CC=CC=C1)S(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)C1=CC=CC=C1 | C17H13NO4S2
reactant | water | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-(3,4-dichlorophenoxy)-5-(phenylsulfonyl)pyridine | 68% yield | ClC=1C=C(OC2=NC=C(C=C2)S(=O)(=O)C2=CC=CC=C2)C=CC1Cl | C17H11Cl2NO3S
